US06518423B1
Ethyl (±)-(6R*,8R*)-(3,6,8-trimethyl-3-azabicyclo[3.3.1]non-9-ylidene)acetate
To a solution of 130 g of triethyl phosphono acetate in tetrahydrofuran (600 ml) was added 25 g of sodium hydride (oily: 60% or above) under ice-cooling and the resulting mixture was stirred at room temperature for 10 minutes. Then a solution of 70 g of the crude (6R*,8R*)-3,6,8-trimethyl-3-azabicyclo[3.3.1]nonan-9-one in tetrahydrofuran (300 ml) was added thereto and the reaction mixture was heated under reflux for 2 hours. After adding ethyl acetate, the reaction mixture was washed twice with a saturated aqueous solution of sodium chloride and the organic layer was dried over anhydrous magnesium sulfate. After distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography (eluted with n-hexane/ethyl acetate) to thereby give 31.5 g of the title compound as a pale yellow oily substance.

reactant | triethyl phosphono acetate | 130 g | CCOC(=O)CP(=O)(OCC)OCC | C8H17O5P
reactant | sodium hydride | 25 g | [H-].[Na+]
reactant | (6R*,8R*)-3,6,8-trimethyl-3-azabicyclo[3.3.1]nonan-9-one | 70 g | CN1CC2[C@@H](C[C@H](C(C1)C2=O)C)C | C11H19NO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | Ethyl (±)-(6R*,8R*)-(3,6,8-trimethyl-3-azabicyclo[3.3.1]non-9-ylidene)acetate | 31.5 g | CN1CC2[C@@H](C[C@H](C(C1)C2=CC(=O)OCC)C)C | C15H25NO2
